* Transistors
Q31 4 10 9 QN
Q32 8 3 2 QN
Q33 3 6 3 QP
Q34 2 7 2 QN
Q35 3 5 3 QN
Q36 5 10 3 QP
Q37 2 25 2 QP
Q38 25 3 26 QP
Q39 4 1 2 QN
Q40 26 3 25 QP
Q41 2 5 2 QN
Q42 3 6 3 QP
Q43 3 3 3 QN
Q44 3 3 3 QN
Q45 3 3 3 QN
Q46 3 3 3 QN
* Resistors
R31 2 10 3.5k
R32 9 4 3.5k
R33 10 5 14k
R34 5 3 33k
R35 4 3 33k
R36 4 3 1.3k
R37 2 9 2.5k
? Missing component
R39 2 8 5k
R40 3 7 5k
R41 2 3 10k
R42 3 6 1.3k
R43 3 5 3.5k
R44 3 3 3.5k
R45 3 3 1.3k
* Voltage Source
VCC 10 0 DC 15V
VBias1 1 0 DC 1.5V
VBias2 6 0 DC 1.5V
VBias3 7 0 DC 1.5V
VBias4 8 0 DC 1.5V
VBias5 9 0 DC 1.5V
* End of Netlist
